US08604032B2
To a stirred solution of hydroxylamine-o-sulfonic acid (26.64 g, 235.8 mmol, 3.0 eq) in H2O (17 mL) at 0° C., ethyl 1H-imidazole-2-carboxylate (C-3) (11.0 g, 78.6 mmol, 1.0 eq) is added and the resulting mixture is stirred at 90° C. for 30 min. The mixture is cooled to RT and K2CO3 (3.6 g, 26.2 mmol, 1.0 eq) is added in portions. The resulting mixture is stirred at RT overnight, filtered and rinsed with H2O (10 mL×3). The filtrate is extracted with ethyl acetate (50 mL×5). The combined organic layer is washed with brine, dried over Na2SO4 and filtered. The filtrate is evaporated in vacuo and the residue is purified by flash column chromatography on silica gel (1% MeOH-DCM) to afford the product, ethyl 1-amino-1H-imidazole-2-carboxylate (C-4) as a colorless oil.

reactant | hydroxylamine-o-sulfonic acid | 235.8 mmol, 26.64 g, 3.0 eq | NOS(=O)(=O)O | H3NO4S
reactant | ethyl 1H-imidazole-2-carboxylate | 78.6 mmol, 11.0 g, 1.0 eq | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
reactant | K2CO3 | 26.2 mmol, 3.6 g, 1.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 17 mL | O | H2O
product | ethyl 1-amino-1H-imidazole-2-carboxylate | NN1C(=NC=C1)C(=O)OCC | C6H9N3O2
